US04137273
A solution of 2 g. of methyl 3,8-dimethyldeca-2,7-dienoate in 20 ml. of dry ether is added with stirring to 0.4 g. of lithium aluminum hydride covered in ether at 0°. After about one hour, 2.5 ml. of acetic acid is added. The mixture is washed with ice water and the ether phase dried and evaporated to yield 3,8-dimethyldeca-2,7-dien-1-ol which is treated with phosphorus tribromide to yield 1-bromo-3,8-dimethyldeca-2,7-diene.

reactant | methyl 3,8-dimethyldeca-2,7-dienoate | CC(=CC(=O)OC)CCCC=C(CC)C | C13H22O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 3,8-dimethyldeca-2,7-dien-1-ol | CC(=CCO)CCCC=C(CC)C | C12H22O
